US06660744B1
A mixture of 3-methyl-5-phenyl-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4,5-dihydro-1H-pyrazole (0.102 g, 0.000283 mol), trans-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.104 g, 0.000236 mol), tetrakis-(triphenylphosphine)palladium (0.016 g, 0.000014 mol) and sodium carbonate monohydrate (0.073 g, 0.00055 mol) was heated in a mixture of ethylene glycol dimethyl ether (5 mL) and water (3 mL) at 80° C. for 16 hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under the reduced pressure. The residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield trans-3-[4-(3-methyl-5-phenyl-1H-1-pyrazolyl)phenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine diacetate (0.094 g, 0.000141 mol) as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 8.23 (s, 1H), 7.64 (d, 2H), 7.37 (m, 7H), 6.49 (s, 1H), 4.63 (m, 1H), 2.6-2.2 (br, 9H), 2.30 (s, 3H), 2.13 (s, 3H), 2.05 (m, 6H), 1.91 (s, 6H), 1.46 (m, 2H); RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 14.10 min. MS: MH+ 548.

reactant | 3-methyl-5-phenyl-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4,5-dihydro-1H-pyrazole | 0.000283 mol, 0.102 g | CC1=NN(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H27BN2O2
reactant | trans-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.000236 mol, 0.104 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate monohydrate | 0.00055 mol, 0.073 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
solvent | water | 3 mL | O | H2O
product | trans-3-[4-(3-methyl-5-phenyl-1H-1-pyrazolyl)phenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine diacetate | 0.000141 mol, 0.094 g | C(C)(=O)O.C(C)(=O)O.CC1=NN(C(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | InChI=1S/C32H37N9.2C2H4O2/c1-22-20-28(23-6-4-3-5-7-23)40(36-22)26-10-8-24(9-11-26)30-29-31(33)34-21-35-32(29)41(37-30)27-14-12-25(13-15-27)39-18-16-38(2)17-19-39;2*1-2(3)4/h3-11,20-21,25,27H,12-19H2,1-2H3,(H2,33,34,35);2*1H3,(H,3,4)/t25-,27-;;
